US07915271B2
A roundbottom flask was charged with methyl 4-bromo-3-methylbenzoate (200 mg, 0.878 mmol), bis(pinacolato)diboron (277 mg, 1.089 mmol), PdCl2(dppf)CH2Cl2 (70 mg, 0.0873 mmol), KOAc (171 mg, 1.75 mmol), and DMSO (10 mL). The reaction was degassed with N2 and heated at 40° C. for 1 hour, 60° C. for 1 hour, and then 80° C. for 12 hours. The reaction was diluted with EtOAc (25 mL) and hexanes (75 mL) and the organics were washed with water (2×25 mL) and brine (50 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromoatography on silica gel (0 to 15% EtOAc/hexanes) afforded methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate. 1H NMR (CDCl3, 500 MHz) δ 7.82 (s, 1H), 7.80 (s, 2H), 3.91 (s, 3H), 2.57 (s, 3H), 1.35 (s, 12H).

reactant | methyl 4-bromo-3-methylbenzoate | 0.878 mmol, 200 mg | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | bis(pinacolato)diboron | 1.089 mmol, 277 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.75 mmol, 171 mg | CC(=O)[O-].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | CC=1C=C(C(=O)OC)C=CC1B1OC(C(O1)(C)C)(C)C | C15H21BO4
